US09334286B2
Preparation 119: 6-(1,2-Dimethyl-1H-imidazol-5-yl)-2-methoxypyridin-3-amine
A suspension of 6-bromo-2-methoxypyridin-3-amine (96 mg, 0.473 mmol), 1,2-dimethyl-1H-imidazole (91 mg, 0.946 mmol), Pd(OAc)2 (4.3 mg, 0.019 mmol), KOAc (93 mg, 0.95 mmol) in DMA (3 mL) was stirred at 1500 under microwave irradiation for 8 hours. The reaction mixture was filtered, diluted with NaCl solution and extracted with EtOAc. The organic layer was purified by eluting through an SCX-2 column using 2M NH3/MeOH followed by Biotage silica gel column chromatography eluting with 0-4% MeOH/EtOAc to give the title compound as pink solid (17 mg, 16%).

reactant | 6-bromo-2-methoxypyridin-3-amine | 0.473 mmol, 96 mg | BrC1=CC=C(C(=N1)OC)N | C6H7BrN2O
reactant | 1,2-dimethyl-1H-imidazole | 0.946 mmol, 91 mg | CN1C(=NC=C1)C | C5H8N2
reactant | KOAc | 0.95 mmol, 93 mg | CC(=O)[O-].[K+]
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
catalyst | Pd(OAc)2 | 0.019 mmol, 4.3 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 6-(1,2-Dimethyl-1H-imidazol-5-yl)-2-methoxypyridin-3-amine | 17 mg, 16% | CN1C(=NC=C1C1=CC=C(C(=N1)OC)N)C | C11H14N4O
